US06355662B1
D. 3-[3-(1-benzyloxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-propionic acid methyl ester
To a stirred solution of [1-(hydroxyimino-methyl)-3-methyl-butyl]-carbamic acid benzyl ester (6.0 g, 22.7 mmol) and pent-4-ynoic acid methyl ester (3.8 g, 34 mmol) in CH2Cl2 (80 ml) was added triethylamine (0.2 ml) followed by Clorox bleach (80 ml). After 4 h at room temperature the organic phase was separated and the aqueous phase was extracted with CH2Cl2 (25 ml×3). The combined organics were dried over MgSO4; filtered and concentrated under reduced pressure to give a yellow oil. Purification by Flash 40 chromatography using a silica gel column and eluting with 10-20% EtOAc/hexane gave 2.5 g of the title compound as a waxy pale yellow solid. MS [M+1]+375.3; 1H nmr (400 MHz, CDCl3) δ0.91 (m, 6H), 1.51-1.76 (m, 3H), 2.67 (t, J=7.5 Hz, 2H), 3.02 (t, J=7.5 Hz, 2H), 3.67 (s, 3H), 4.89 (m,1H), 5.08 (m, 3H), 5.92 (s, 1H), 7.31 (m, 5H).

reactant | [1-(hydroxyimino-methyl)-3-methyl-butyl]-carbamic acid benzyl ester | 22.7 mmol, 6.0 g | C(C1=CC=CC=C1)OC(NC(CC(C)C)C=NO)=O | C14H20N2O3
reactant | pent-4-ynoic acid methyl ester | 34 mmol, 3.8 g | COC(CCC#C)=O | C6H8O2
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(1-benzyloxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-propionic acid methyl ester | 2.5 g | COC(CCC1=CC(=NO1)C(CC(C)C)NC(=O)OCC1=CC=CC=C1)=O | C20H26N2O5
